US07399759B2
1-{3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}proline
tert-Butyl 1-{3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}-2-pyrrolidinecarboxylate (0.25 g, 0.68 mmol) was dissolved in trifluoroacetic acid (2 ml), and the mixture was stirred at room temperature for 2.5 hrs. Isopropyl ether was added to the reaction mixture to precipitate crystals, which were collected by filtration and recrystallized from ethanol-hexane to give the titled compound (0.13 g, 45%) as white crystals.

reactant | tert-Butyl 1-{3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}-2-pyrrolidinecarboxylate | 0.68 mmol, 0.25 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)N2C(CCC2)C(=O)OC(C)(C)C | C25H27N3O4S
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}proline | 0.13 g, 45% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)N2[C@H](C(=O)O)CCC2 | C21H19N3O4S
